US07271169B2
To a solution of N-[2-(2-methylbenzothiazol-5-yloxy)-1-(piperazinylmethyl)ethyl]-acetamide (18.4 mg) in N,N-dimethylformamide (2 ml) was added ethyldiisopropylamine (500 μl) and chloro-N-(3-phenylphenyl)amide (15.6 mg). The mixture was heated at 75° C. overnight, then solvent removed under reduced pressure, and the residue dissolved in a mixture of methanol/methylene chloride and applied to a preparative TLC plate. The plate was eluted with 4% methanol/methylene chloride and the appropriate fraction collected, providing 2-{4-[2-(acetylamino)-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}-N-(3-phenylphenyl)acetamide (10 mg).

reactant | N-[2-(2-methylbenzothiazol-5-yloxy)-1-(piperazinylmethyl)ethyl]-acetamide | 18.4 mg | CC=1SC2=C(N1)C=C(C=C2)OCC(CN2CCNCC2)NC(C)=O | C17H24N4O2S
reactant | ethyldiisopropylamine | 500 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloro-N-(3-phenylphenyl)amide | 15.6 mg | Cl[N-]C1=CC(=CC=C1)C1=CC=CC=C1
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-{4-[2-(acetylamino)-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}-N-(3-phenylphenyl)acetamide | 10 mg | C(C)(=O)NC(CN1CCN(CC1)CC(=O)NC1=CC(=CC=C1)C1=CC=CC=C1)COC=1C=CC2=C(N=C(S2)C)C1 | C31H35N5O3S
